Netlist for the C3 bit - (13)

.include "TSMC_180nm.txt"
.param SUPPLY = 1.8
.param LAMBDA = 0.09u
.param width_N = {20 * LAMBDA} ; Vary the width (1)
.param width_P = {2 * width_N} ; Assuming ratio of mobilites is 2, change it (2)
.global gnd vdd

.subckt Inverter in out high low
    M1 high in out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2 out in low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends Inverter

* Modified the Widths to equalize the delay to a minimum sized inverter
.subckt C3_Bit_Logic clk A3_not A2_not A1_not A0_not B3_not B2_not B1_not B0_not Cin_not out high low 

    MC3_PUN_01 high clk out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    * Keeper Circuit
    XKeeperInverter out outFinal high low Inverter
    MKeeper high outFinal out high CMOSP W = {width_P} L = {2*LAMBDA}
    + AS = {5*width_P*LAMBDA} PS = {10*LAMBDA+2*width_P} AD = {5*width_P*LAMBDA} PD = {10*LAMBDA+2*width_P}

    MC3_PDN_01 out clk C3_Inter_09 C2_Inter_09 CMOSN W={width_N} L={2*LAMBDA}   
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    MC3_PDN_18 C3_Inter_09 A3_not C3_Inter_08 C3_Inter_08 CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    MC3_PDN_17 C3_Inter_08 B3_not low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    MC3_PDN_16 C3_Inter_09 A3_not C3_Inter_07 C3_Inter_07 CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    MC3_PDN_15 C3_Inter_09 B3_not C3_Inter_07 C3_Inter_07 CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    MC2_PDN_14 C2_Inter_07 A2_not C2_Inter_06 C2_Inter_06 CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    MC2_PDN_13 C2_Inter_06 B2_not low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    MC2_PDN_12 C2_Inter_07 A2_not C2_Inter_05 C2_Inter_05 CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    MC2_PDN_11 C2_Inter_07 B2_not C2_Inter_05 C2_Inter_05 CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    MC1_PDN_10 C2_Inter_05 A1_not C2_Inter_04 C2_Inter_04 CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    MC1_PDN_09 C2_Inter_04 B1_not low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    MC1_PDN_08 C2_Inter_05 A1_not C2_Inter_03 C2_Inter_03 CMOSN W={5*width_N} L={2*LAMBDA}
    + AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}
    MC1_PDN_07 C2_Inter_05 B1_not C2_Inter_03 C2_Inter_03 CMOSN W={5*width_N} L={2*LAMBDA}
    + AS={5*5*width_N*LAMBDA} PS={10*LAMBDA+2*5*width_N} AD={5*5*width_N*LAMBDA} PD={10*LAMBDA+2*5*width_N}

    MC0_PDN_06 C2_Inter_03 A0_not C2_Inter_02 C2_Inter_02 CMOSN W={5idth_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    MC0_PDN_05 C2_Inter_02 B0_not low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    MC0_PDN_04 C2_Inter_03 Cin_not C2_Inter_01 C2_Inter_01 CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

    MC0_PDN_03 C2_Inter_01 A0_not low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
    MC0_PDN_02 C2_Inter_01 B0_not low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

.ends C3_Bit_Logic

* .subckt InverterLoad in out high low
*     M1 high in out high CMOSP W={20*LAMBDA} L={2*LAMBDA}
*     + AS={5*20*LAMBDA*LAMBDA} PS={10*LAMBDA+2*20*LAMBDA} AD={5*20*LAMBDA*LAMBDA} PD={10*LAMBDA+2*20*LAMBDA}
*     M2 out in low low CMOSN W={10*LAMBDA} L={2*LAMBDA}
*     + AS={5*10*LAMBDA*LAMBDA} PS={10*LAMBDA+2*10*LAMBDA} AD={5*10*LAMBDA*LAMBDA} PD={10*LAMBDA+2*10*LAMBDA}
* .ends InverterLoad

* vin in+ in- pulse VLow VHigh delay rise-time fall-time on-period time-period
VDD vdd gnd 'SUPPLY'
VClk clk_line gnd pulse gnd SUPPLY 0 1p 1p 1ns 2ns ; No Skew Currently, add a skew for practical measurements (3)
VA3_not A3_not gnd pulse gnd SUPPLY 0.5n 1p 1p 1ns 2ns ; No Skew Currently, add a skew for practical measurements (4)
VA2_not A2_not gnd pulse gnd SUPPLY 0.5n 1p 1p 1ns 2ns ; No Skew Currently, add a skew for practical measurements (5)
VA1_not A1_not gnd pulse gnd SUPPLY 0.75n 1p 1p 3ns 6ns ; No Skew Currently, add a skew for practical measurements (6)
VA0_not A0_not gnd pulse gnd SUPPLY 1.35n 1p 1p 3.5ns 7ns ; No Skew Currently, add a skew for practical measurements (7)
VB3_not B3_not gnd pulse gnd SUPPLY 0.5n 1p 1p 1ns 2ns ; No Skew Currently, add a skew for practical measurements (8)
VB2_not B2_not gnd pulse gnd SUPPLY 0 1p 1p 5ns 10ns ; No Skew Currently, add a skew for practical measurements (9)
VB1_not B1_not gnd pulse gnd SUPPLY 1n 1p 1p 7ns 14ns ; No Skew Currently, add a skew for practical measurements (10)
VB0_not B0_not gnd pulse gnd SUPPLY 0.6n 1p 1p 1.5ns 3ns ; No Skew Currently, add a skew for practical measurements (11)
VCin_not Cin_not gnd pulse gnd SUPPLY 0 1p 1p 11ns 22ns ; No Skew Currently, add a skew for practical measurements (12)

* VA3_not A3_not gnd 0
* VA2_not A2_not gnd 0
* VA1_not A1_not gnd 0
* VA0_not A0_not gnd 'SUPPLY'
* VB3_not B3_not gnd 0
* VB2_not B2_not gnd 'SUPPLY'
* VB1_not B1_not gnd 'SUPPLY'
* VB0_not B0_not gnd 0
* VCin_not Cin_not gnd 0

XC3_Bit_Logic clk_line A3_not A2_not A1_not A0_not B3_not B2_not B1_not B0_not Cin_not out vdd gnd C3_Bit_Logic

* Load (13)
* XInverterL out temp vdd gnd InverterLoad

* .measure tran trise
* + TRIG V(out) VAL = 'SUPPLY / 10' TD = 5ns TO = 15ns RISE = 1
* + TARG V(out) VAL = '9 * SUPPLY / 10' TD = 5ns TO = 15ns RISE = 1

* .measure tran tfall
* + TRIG V(out) VAL = '9 * SUPPLY / 10' TD = 25ns TO = 35ns FALL = 1
* + TARG V(out) VAL = 'SUPPLY / 10' TD = 25ns TO = 35ns FALL = 1

* .measure tran delay param = '(trise + tfall) / 2'

* .measure tran tcqrise
* + TRIG V(clk_line) VAL = 'SUPPLY / 2' RISE = 1
* + TARG V(out) VAL = 'SUPPLY / 2' RISE = 1

* .measure tran tcqfall
* + TRIG V(clk_line) VAL = 'SUPPLY / 2' RISE = 2
* + TARG V(out) VAL = 'SUPPLY / 2' FALL = 1

* .measure tran tcq param = '(tcqrise + tcqfall) / 2'

.tran 10ps 16ns

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3
set ybrushwidth = 3

let clock = 'clk_line + 20'
let in_a3_bar = 'A3_not + 18'
let in_a2_bar = 'A2_not + 16'
let in_a1_bar = 'A1_not + 14'
let in_a0_bar = 'A0_not + 12'
let in_b3_bar = 'B3_not + 10'
let in_b2_bar = 'B2_not + 8'
let in_b1_bar = 'B1_not + 6'
let in_b0_bar = 'B0_not + 4'
let in_cin_bar = 'Cin_not + 2'
let output = 'out'
plot clock in_a3_bar in_a2_bar in_a1_bar in_a0_bar in_b3_bar in_b2_bar in_b1_bar in_b0_bar in_cin_bar output

.endc

.end